US04436748
To 3.13 g of 99% sodium hydride under nitrogen at room temperature is added a solution of 12.26 g of 2,3-dichloro-4-methoxythiophenol in 100 ml of sieve-dried dimethylformamide over 2 minutes. The reaction is stirred for 12 minutes. A solution of 9.56 g of α-bromoisovaleric acid in 85 ml of dimethylformamide is added over 4 minutes. The reaction is stirred at room temperature for 3 hours, cooled in ice, diluted with 500 ml of water and filtered. The solution is cooled and acidified with 3 N hydrochloric acid to give the product. The precipitate is filtered, washed with a small amount of water, dried and recrystallized from acetone-pentane to give 13.14 g of α-(2,3-dichloro-4-methoxyphenylthio)isovaleric acid as a white crystalline powder mp 176.5°-178.5°.

reactant | sodium hydride | 3.13 g | [H-].[Na+]
reactant | 2,3-dichloro-4-methoxythiophenol | 12.26 g | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
reactant | α-bromoisovaleric acid | 9.56 g | BrC(C(=O)O)C(C)C | C5H9BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | α-(2,3-dichloro-4-methoxyphenylthio)isovaleric acid | 13.14 g | ClC1=C(C=CC(=C1Cl)OC)SC(C(=O)O)C(C)C | C12H14Cl2O3S
